US05073564
Under a nitrogen atmosphere a stirred solution of 25.0 grams (0.186 mole) of benzothiophene in 250 ml of dry tetrahydrofuran was cooled to -65° C., and 69.8 ml (0.186 mole) of n-butyllithium (2.7M in hexane) was added dropwise keeping the reaction mixture temperature below -60° C. Upon completion of addition, the reaction mixture was stirred for five minutes and then was allowed to warm to 0° C. After this time a solution of 50.8 grams (0.200 mole) of iodine in 180 ml of tetrahydrofuran was added dropwise keeping the reaction mixture temperature below 10° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it was quenched with an aqueous solution saturated with sodium metabisulfite. The reaction mixture was placed in a separatory funnel, and the organic layer was separated. The organic layer was washed with one portion of an aqueous solution saturated with sodium metabisulfite and with one portion of an aqueous solution saturated with sodium chloride. The aqueous layers were combined and washed with diethyl ether. The ether washes were combined with the organic layer, and the combination was dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was dissolved in diethyl ether and reconcentrated under reduced pressure to a residue. The residue was dissolved in warm hexane and eluted through a column of silica gel. The eluate was concentrated under reduced pressure to a volume of approximately 100 ml, and a solid crystallized from the solution. The mixture was cooled, and the solid was collected by filtration, yielding in two crops 18.9 grams of 2-iodobenzothiophene.

reactant | benzothiophene | 0.186 mole, 25.0 grams | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | n-butyllithium | 0.186 mole, 2.7M, 69.8 ml | C(CCC)[Li]
reactant | iodine | 0.200 mole, 50.8 grams | II | I2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 2-iodobenzothiophene | 18.9 grams | IC=1SC2=C(C1)C=CC=C2 | C8H5IS
